US09351974B2
Step d: Synthesis of 2-chloro-8-(3-methylbutyl)-5-phenyl-5,8-dihydropteridine-6,7-dione
To a stirred solution of 2-chloro-8-(3-methylbutyl)-5,8-dihydropteridine-6,7-dione (500 mg, 1.86 mmol), triethylamine (1.88 g, 18.61 mmol) in dichloromethane (20 mL) was added copper acetate (678 mg, 3.73 mmol), phenyl boronic acid (455 mg, 3.73 mmol) and molecular sieves (4 Å, 2 g). The resulting mixture was and stirred at rt for 60 h with an air balloon. The reaction mixture was then diluted with dichloromethane (20 mL) and filtered through celite to remove insoluble material. The bulk of solvent from filtration was then removed under reduced pressure to give a crude residue, which was purified by a silica gel column chromatography (eluent: 40% ethyl acetate in hexanes) to provided the desired compound (110 mg). 1H NMR (CDCl3, 300 MHz) δ 1.05 (d, J=6.8 Hz, 6H), 1.60-1.79 (m, 3H), 4.38-4.42 (m, 2H), 7.21-7.38 (m, 3H), 7.48-7.65 (m, 2H), 7.79 (s, 1H).

reactant | 2-chloro-8-(3-methylbutyl)-5,8-dihydropteridine-6,7-dione | 1.86 mmol, 500 mg | ClC1=NC=2N(C(C(NC2C=N1)=O)=O)CCC(C)C | C11H13ClN4O2
reactant | triethylamine | 18.61 mmol, 1.88 g | C(C)N(CC)CC | C6H15N
reactant | phenyl boronic acid | 3.73 mmol, 455 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | copper acetate | 3.73 mmol, 678 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 2-chloro-8-(3-methylbutyl)-5-phenyl-5,8-dihydropteridine-6,7-dione | 110 mg | ClC1=NC=2N(C(C(N(C2C=N1)C1=CC=CC=C1)=O)=O)CCC(C)C | C17H17ClN4O2
